US08049006B2
Instead of the starting material compound of Reference Example 104, that is, 3-furan carboxylic acid, 3-thiophencarboxylic acid was used for the similar procedure as in Reference Example 104 to obtain tert-butyl 5-propionyl-3-thiophencarboxylate.

reactant | 3-furan carboxylic acid | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | 3-thiophencarboxylic acid | S1C=C(C=C1)C(=O)O | C5H4O2S
product | tert-butyl 5-propionyl-3-thiophencarboxylate | C(CC)(=O)C1=CC(=CS1)C(=O)OC(C)(C)C | C12H16O3S
